* AND Gate Layout
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.option scale=0.09u
.global gnd vdd

M1000 vdd in2 a_12_42# w_n1_36# CMOSP w=20 l=2
+  ad=300 pd=150 as=160 ps=56
M1001 a_12_42# in1 vdd w_n1_36# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 a_12_4# in1 gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=150 ps=80
M1003 out a_12_42# gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1004 a_12_42# in2 a_12_4# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1005 out a_12_42# vdd w_n1_36# CMOSP w=20 l=2
+  ad=100 pd=50 as=0 ps=0
C0 a_12_42# out 0.04fF
C1 in2 a_12_42# 0.10fF
C2 w_n1_36# vdd 0.07fF
C3 in1 in2 0.21fF
C4 w_n1_36# out 0.02fF
C5 w_n1_36# in2 0.07fF
C6 a_12_42# gnd 0.02fF
C7 w_n1_36# a_12_42# 0.11fF
C8 w_n1_36# in1 0.07fF
C9 gnd Gnd 0.16fF
C10 out Gnd 0.03fF
C11 a_12_42# Gnd 0.18fF
C12 vdd Gnd 0.10fF
C13 in2 Gnd 0.18fF
C14 in1 Gnd 0.16fF
C15 w_n1_36# Gnd 1.82fF

Vdd vdd gnd 'SUPPLY'
Vin1 in1 gnd pulse 0 1.8 0 0.01ns 0.01ns 10ns 20ns
Vin2 in2 gnd pulse 0 1.8 0 0.01ns 0.01ns 20ns 40ns

.tran 1p 50n

.control
set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="AND layout verif 2025122009"
plot v(in1), v(in2)+2, v(out)+4
.endc
