* NAND Gate Layout
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.option scale=0.09u
.global gnd vdd

M1000 vdd in2 out w_n1_36# CMOSP w=20 l=2
+  ad=200 pd=100 as=160 ps=56
M1001 out in1 vdd w_n1_36# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 a_12_4# in1 gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=100 ps=50
M1003 out in2 a_12_4# Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
C0 vdd w_n1_36# 0.05fF
C1 in2 out 0.10fF
C2 w_n1_36# out 0.04fF
C3 in2 w_n1_36# 0.07fF
C4 in1 in2 0.21fF
C5 in1 w_n1_36# 0.07fF

Vdd vdd gnd 'SUPPLY'
Vin1 in1 gnd pulse 0 1.8 0 0.01ns 0.01ns 10ns 20ns
Vin2 in2 gnd pulse 0 1.8 0 0.01ns 0.01ns 20ns 40ns

.tran 1p 50n

.control
set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="NAND lauyout verification 2025122009"
plot v(in1), v(in2)+2, v(out)+4
.endc
